US06825170B2
5-(2-pyrimidinyl)-2-thiophenecarboxaldehyde
A mixture of Na2CO3 (3.16 g) and 5-formyl-2-thiopheneboronic acid (2.4 g, 15.1 mmol) in water (15 mL) were added to a solution of 2-bromopyrimidine (2 g, 12.58 mmol) and tetrakis(triphenylphosphine)palladium(0) (480 mg, 0.46 mmol) in DME (30 mL) and the mixture was heated to reflux for 24 hr. The cooled reaction mixture was diluted with dichloromethane, washed with sat. aq. NaHCO3 and brine, dried (MgSO4), and concentrated. Purification by chromatography (SiO2, 1:1 hexane/ethyl acetate) yielded 620 mg (26%) of the title compound. MS 191 (M+H)+.

reactant | Na2CO3 | 3.16 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 5-formyl-2-thiopheneboronic acid | 15.1 mmol, 2.4 g | C(=O)C1=CC=C(S1)B(O)O | C5H5BO3S
reactant | 2-bromopyrimidine | 12.58 mmol, 2 g | BrC1=NC=CC=N1 | C4H3BrN2
solvent | water | 15 mL | O | H2O
solvent | DME | 30 mL | COCCOC | C4H10O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.46 mmol, 480 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-pyrimidinyl)-2-thiophenecarboxaldehyde | 620 mg, 26% | N1=C(N=CC=C1)C1=CC=C(S1)C=O | C9H6N2OS
